US04145299
Preparation of 2,3-dihydroxy-7-naphthalenesulfonamide
A solution of 20.0 g. (0.0583 mole) of 2,3-diacetoxy-7-naphthalenesulfonyl chloride in 300 ml. of tetrahydrofuran was treated with 8.7 ml. (0.13 mole) of aqueous 28% ammonia. The solid (9.9 g., infrared spectrum identical with that of 6,7-diacetoxy-2-naphthalenesulfonic acid sodium salt) was removed by filtration and the filtrate evaporated to dryness. The residue was dissolved in 150 ml. of ethyl acetate. The residue from evaporation of the dried (anhydrous sodium sulfate) solution was slurried with four 100-ml. portions of ether and then dissolved in 150 ml. of 3A alcohol. The solution was saturated with hydrogen chloride, allowed to stand overnight, and then concentrated at the water pump to give 9.7 g. of colorless residue. Recrystallization from 50 ml. of water gave 5.1 g. (37%) of pale violet solid, m.p. 218°-228° C.

reactant | 2,3-diacetoxy-7-naphthalenesulfonyl chloride | 0.0583 mole | C(C)(=O)OC1=CC2=CC(=CC=C2C=C1OC(C)=O)S(=O)(=O)Cl | C14H11ClO6S
reactant | ammonia | N | H3N
reactant | 6,7-diacetoxy-2-naphthalenesulfonic acid sodium salt | [Na+].C(C)(=O)OC=1C=C2C=CC(=CC2=CC1OC(C)=O)S(=O)(=O)[O-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,3-dihydroxy-7-naphthalenesulfonamide | OC1=CC2=CC(=CC=C2C=C1O)S(=O)(=O)N | C10H9NO4S
